US07112590B2
(2S)-1-[(2R)-2-Amino-3-phenylpropanoyl]-N-(2-amino-5,6,7,8-tetrahydro-6-quinazolinyl)-2-pyrrolidinecarboxamide dihydrochloride
HCl gas was bubbled for 50 minutes through a solution of tert-butyl (1R)-2-((2S)-2-{[(2-amino-5,6,7,8-tetrahydro-6-quinazolinyl)amino]carbonyl}pyrrolidinyl)-1-benzyl-2-oxoethylcarbamate (240 mg, 0.47 mmol) in 15 mL of anhydrous acetic acid at room temperature. Acetic acid was evaporated under reduced pressure and the residue was triturated several times with diethyl ether to yield 141 mg (62%) of the title compound as a white solid.

reactant | HCl | Cl | ClH
reactant | tert-butyl (1R)-2-((2S)-2-{[(2-amino-5,6,7,8-tetrahydro-6-quinazolinyl)amino]carbonyl}pyrrolidinyl)-1-benzyl-2-oxoethylcarbamate | 0.47 mmol, 240 mg | NC1=NC=2CCC(CC2C=N1)NC(=O)[C@H]1N(CCC1)C([C@@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C27H36N6O4
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | (2S)-1-[(2R)-2-Amino-3-phenylpropanoyl]-N-(2-amino-5,6,7,8-tetrahydro-6-quinazolinyl)-2-pyrrolidinecarboxamide dihydrochloride | 141 mg, 62% | Cl.Cl.N[C@@H](C(=O)N1[C@@H](CCC1)C(=O)NC1CC=2C=NC(=NC2CC1)N)CC1=CC=CC=C1 | InChI=1S/C22H28N6O2.2ClH/c23-17(11-14-5-2-1-3-6-14)21(30)28-10-4-7-19(28)20(29)26-16-8-9-18-15(12-16)13-25-22(24)27-18;;/h1-3,5-6,13,16-17,19H,4,7-12,23H2,(H,26,29)(H2,24,25,27);2*1H/t16?,17-,19+;;/m1../s1
